US07960386B2
A mixture of 2-hydroxy-4-methylpyridine (1.50 g, 13.75 mmol) and potassium carbonate (1.90 g, 13.75 mmol) in 13 ml of methanol were stirred at room temperature for 15 minutes and then 1-bromo-4-chlorobutane (3.54 g, 20.62 mmol) and a spatula tip of potassium iodide were added thereto. The reaction mixture was heated to reflux for 6 hours and then stirred at room temperature for 12 hours. Water was then added to the reaction mixture, and the aqueous mixture was extracted with dichloromethane. Drying of the organic phase and removal of the desiccant by filtration was followed by concentration of the organic phase in vacuo. Flash chromatography of resulting residue on silica gel (eluent: CH2Cl2/CH3OH: 98:2) afforded 2.0 g of 1-(4-chlorobutyl)-4-methylpyridin-2(1H)-one.

reactant | 2-hydroxy-4-methylpyridine | 13.75 mmol, 1.50 g | OC1=NC=CC(=C1)C | C6H7NO
reactant | potassium carbonate | 13.75 mmol, 1.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 20.62 mmol, 3.54 g | BrCCCCCl | C4H8BrCl
reactant | potassium iodide | [I-].[K+]
solvent | methanol | 13 ml | CO | CH4O
solvent | Water | O | H2O
product | 1-(4-chlorobutyl)-4-methylpyridin-2(1H)-one | 2.0 g | ClCCCCN1C(C=C(C=C1)C)=O | C10H14ClNO
